US06797718B2
A solution of trifluoromethanesulfonic acid 4-[(2-{2-[(tert-butoxycarbonyl)amino]ethoxy}ethyl)amino]-6-chloro-5-methyl-3-nitropyridin-2-yl ester (14.3 g, 27.4 mmol), bis(4-methoxybenzyl)amine (7.00 g, 27.4 mmol), and triethylamine (3.82 mL, 27.4 mmol) in toluene (250 mL) was heated at 90° C. for two hours and then allowed to cool to room temperature overnight. Diethyl ether (300 mL) was added, and the solution was washed with water (200 mL) and brine (200 mL), dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified twice by column chromatography on silica gel (eluting sequentially with 80:20 hexanes:ethyl acetate and 70:30 hexanes:ethyl acetate) to provide 8.73 g of {2-[2-(2-[bis{4-methoxybenzyl}amino]-6-chloro-5-methyl-3-nitropyridin-4-ylamino)ethoxy]ethyl}carbamic acid tert-butyl ester.

reactant | trifluoromethanesulfonic acid 4-[(2-{2-[(tert-butoxycarbonyl)amino]ethoxy}ethyl)amino]-6-chloro-5-methyl-3-nitropyridin-2-yl ester | 27.4 mmol, 14.3 g | C(C)(C)(C)OC(=O)NCCOCCNC1=C(C(=NC(=C1C)Cl)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-] | C16H22ClF3N4O8S
reactant | bis(4-methoxybenzyl)amine | 27.4 mmol, 7.00 g | COC1=CC=C(CNCC2=CC=C(C=C2)OC)C=C1 | C16H19NO2
reactant | triethylamine | 27.4 mmol, 3.82 mL | C(C)N(CC)CC | C6H15N
reactant | Diethyl ether | 300 mL | C(C)OCC | C4H10O
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | {2-[2-(2-[bis{4-methoxybenzyl}amino]-6-chloro-5-methyl-3-nitropyridin-4-ylamino)ethoxy]ethyl}carbamic acid tert-butyl ester | 8.73 g | C(C)(C)(C)OC(NCCOCCNC1=C(C(=NC(=C1C)Cl)N(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC)[N+](=O)[O-])=O | C31H40ClN5O7
